US09079889B2
Method 1 was followed using 6-bromopicolinic acid (1.0 equiv.) and 2-fluoro-5-methoxyphenylboronic acid (1.3 equiv.) and Pd(dppf)Cl2-DCM (0.15 equiv.) to give 6-(2-fluoro-5-methoxyphenyl)picolinic acid in 95% yield. LC/MS=248.2 (M+H), Rt=0.78 min.

reactant | 6-bromopicolinic acid | 1.0 equiv. | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 2-fluoro-5-methoxyphenylboronic acid | 1.3 equiv. | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
catalyst | Pd(dppf)Cl2 DCM | 0.15 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-(2-fluoro-5-methoxyphenyl)picolinic acid | 95% yield | FC1=C(C=C(C=C1)OC)C1=CC=CC(=N1)C(=O)O | C13H10FNO3
